US04769370
Step F: 1,2-Dichloro-3-methoxy-8-oxo-5a-propyl-5a,6,7,8-tetrahydrodibenzofuran
A solution of 4,5-dichloro-6-methoxy-3-oxo-2-propylbenzofuran (0.785 g, 0.0029 mole) in tetrahydrofuran (THF) (8 ml) was warmed to 40° C. and treated with 1,5-diazabicyclo[4.3.0]non-5-ene (DBN) (10 μl) and then with methyl vinyl ketone (2 ml) over a 10 minute period. The reaction mixture was heated at 55° C. for 1/2 hour during which time DBN (2 x 10 μl) was added. The THF was evaporated in vacuo, the residual oil dissolved in ether and ethyl acetate, washed with water, dried over MgSO4 and evaporated in vacuo. The residual oil consisting of 4,5-dichloro-6-methoxy-3-oxo-2-(3-oxobutyl)-2-propylbenzofuran (0.81 g) was dissolved in ethanol (10 ml) and water (5 ml), treated with 5% NaOH (1 ml) and stirred at 25° C. for 72 hours. Treatment of the reaction mixture with water (5 ml) caused precipitation of 1,2-dichloro-3-methoxy-8-oxo-5a-propyl-5a,6,7,8,-tetrahydrodibenzofuran (0.6 g) which melted at 172°-173° C.

reactant | 4,5-dichloro-6-methoxy-3-oxo-2-propylbenzofuran | 0.0029 mole, 0.785 g | ClC1=C(C(=CC2=C1C(C(O2)CCC)=O)OC)Cl | C12H12Cl2O3
reactant | 1,5-diazabicyclo[4.3.0]non-5-ene | 10 μl | N12CCCN=C2CCC1 | C7H12N2
reactant | methyl vinyl ketone | 2 ml | C(=C)C(=O)C | C4H6O
reactant | DBN | 10 μl | N12CCCN=C2CCC1 | C7H12N2
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | 1,2-Dichloro-3-methoxy-8-oxo-5a-propyl-5a,6,7,8-tetrahydrodibenzofuran | ClC1=C(C(=CC=2OC3(C(C21)=CC(CC3)=O)CCC)OC)Cl | C16H16Cl2O3
